US06096906
A mixture of ethyl 2-iodo4-trifluoromethyl-benzoate (723 g, 2.1 mol), (3S,4R)-(3-benzyl-4-hydroxy-chroman-7-yl)-boronic acid (627 g, 2.2 mol), potassium fluoride (366 g, 6.3 mol), 10% palladium on carbon (157 g, 50% water wet), and anhydrous ethanol (6.27 L) was heated at reflux for 3 hours at which point thin layer chromatography (toluene/acetic acid, 5:1) indicated the reaction to be complete. The reaction mixture was diluted with isopropyl ether (8 L), filtered through Celites and washed with 10% aqueous sodium bicarbonate (1.5 L). The aqueous layer was separated and extracted with isopropyl ether (3 L). The combined organic layers were washed with water (6 L), dried over magnesium sulfate, and treated with Darco® G-60 (1.0 kg) and silica gel (1 kg, 70-230 mesh) at ambient temperature. This mixture was filtered through a pad of silica gel (70-230 mesh) and concentrated in vacuo to 922 g of dark oil. This oil was diluted with ethyl acetate (1 L) and filtered through a column of silica gel (2 kg) eluting with ethyl acetate giving a light amber solution which was concentrated to afford 897 g (92%) of (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid ethyl ester as a light amber oil: 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=8.1 Hz, 1H), 7.63-7.67 (m, 2H), 7.18-7.38 (m, 6H), 6.91 (dd, J=1.8, 7.8 Hz, 1H), 6.86 (d, J=1.7 Hz, 1H), 4.55 (bs, 1H), 4.25 (dd, J=2.7, 11.2 Hz, 1H), 4.17 (q, J=7.1 Hz, 2H), 4.00 (ddd, J=1.0. 4.5, 11.2 Hz, 1H), 2.75 (dd, J=6.4, 13.9 Hz, 1H), 2.56 (dd, J=9.3, 13.8 Hz, 1H), 2.26 (m, 1H), 1.93 (d, J=4.3 Hz, 1H), 1.09 (t, J=7.2 Hz, 3H); IR 3307 (br), 3216 (br), 1734, 1339, 1298, 1247, 1191, 1175, 1118, 1097, 1050 cm-1.

reactant | ethyl 2-iodo4-trifluoromethyl-benzoate | 2.1 mol, 723 g | IC1=C(C(=O)OCC)C=CC(=C1)C(F)(F)F | C10H8F3IO2
reactant | (3S,4R)-(3-benzyl-4-hydroxy-chroman-7-yl)-boronic acid | 2.2 mol, 627 g | C(C1=CC=CC=C1)[C@H]1COC2=CC(=CC=C2[C@@H]1O)B(O)O | C16H17BO4
reactant | potassium fluoride | 6.3 mol, 366 g | [F-].[K+]
reactant | ethanol | 6.27 L | C(C)O | C2H6O
catalyst | palladium on carbon | 157 g | [Pd] | Pd
solvent | isopropyl ether | 8 L | C(C)(C)OC(C)C | C6H14O
solvent | toluene acetic acid | C1(=CC=CC=C1)C.C(C)(=O)O
product | (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid ethyl ester | 897 g, 92% | C(C)OC(C1=C(C=C(C=C1)C(F)(F)F)C1=CC=C2[C@@H]([C@H](COC2=C1)CC1=CC=CC=C1)O)=O | C26H23F3O4
